US06420385B1
2-(((S)-2-Amino-3-phenylpropyl)-amino)-3-methyl-5-(3-methylphenyl)-6-(4-pyridyl)-4(3H)-pyrimidinone Hydrochloride:
A solution of 2-chloro-3-methyl-5-(3-methylphenyl)-6-(4-pyridyl)-4(3H)-pyrimidinone (3.34 g, 10.71 mmol) and (S)-1-benzyl-1,2-ethanediamine (2.3 g, 15.31 mmol) in ethanol (50 ml) was stirred at room temperature for 16 h. The solvent was evaporated and the crude product recrystallized from methanol. MS (m/z): 426 (M+H)+; C26H27N5O requir. 425.5 (free base).

reactant | 2-chloro-3-methyl-5-(3-methylphenyl)-6-(4-pyridyl)-4(3H)-pyrimidinone | 10.71 mmol, 3.34 g | ClC1=NC(=C(C(N1C)=O)C1=CC(=CC=C1)C)C1=CC=NC=C1 | C17H14ClN3O
reactant | (S)-1-benzyl-1,2-ethanediamine | 15.31 mmol, 2.3 g | C(C1=CC=CC=C1)[C@@H](CN)N | C9H14N2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(((S)-2-Amino-3-phenylpropyl)-amino)-3-methyl-5-(3-methylphenyl)-6-(4-pyridyl)-4(3H)-pyrimidinone Hydrochloride | Cl.N[C@H](CNC1=NC(=C(C(N1C)=O)C1=CC(=CC=C1)C)C1=CC=NC=C1)CC1=CC=CC=C1 | InChI=1S/C26H27N5O.ClH/c1-18-7-6-10-21(15-18)23-24(20-11-13-28-14-12-20)30-26(31(2)25(23)32)29-17-22(27)16-19-8-4-3-5-9-19;/h3-15,22H,16-17,27H2,1-2H3,(H,29,30);1H/t22-;/m0./s1
